data/oMe_Silver.jsonl
{"reaction_id": "NR-235_1-c1ccccc1_2-F_3-C(=O)OC_4-Cl","level": "medium","name": "Smiles Rearrangement","reactants_smiles": ["c1ccccc1NC(=O)C(F)(C(=O)OC)Oc1ccc(Cl)cc1","CC[O-]"],"products_smiles": ["c1ccccc1N(c1ccc(Cl)cc1)C(=O)C(F)(C(=O)OC)O"],"conditions": "CCO","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1[N-]C(=O)C(F)(C(=O)OC)Oc1ccc(Cl)cc1","step_weight": 0,"rationale": "Ethanol’s conjugate base deprotonates the amide nitrogen, increasing its nucleophilicity via negative charge delocalization onto the carbonyl oxygen."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[CH-]1C2(C=CC(Cl)=C1)OC(F)(C(=O)OC)C(N2c1ccccc1)=O","step_weight": 0,"rationale": "The nitrogen anion attacks the electron-deficient aromatic ring ortho/para to the ether linkage, favored by resonance stabilization of the Meisenheimer complex."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccccc1N(c1ccc(Cl)cc1)C(=O)C(F)(C(=O)OC)[O-]","step_weight": 0,"rationale": "The intermediate collapses, expelling the alkoxide leaving group to restore aromaticity, a strong thermodynamic driving force."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1N(c1ccc(Cl)cc1)C(=O)C(F)(C(=O)OC)O","step_weight": 0,"rationale": "The alkoxide oxygen is protonated by solvent ethanol, yielding the neutral hydroxyacetamide product."}],"description": "Under basic ethanol conditions, the amide nitrogen is deprotonated to form a strong nucleophile. This anion attacks the electron-deficient aromatic ring intramolecularly, forming a Meisenheimer complex. Collapse of this intermediate expels the alkoxide, restoring aromaticity, and protonation yields the rearranged hydroxyacetamide."}
{"reaction_id": "NR-116_1-CCCC(C)C_2-C(C)(C)C_3-C_4-C","name": "Japp-Klingemann Reaction","level": "medium","reactants_smiles": ["C(=O)(CCCC(C)C)C(C(C)(C)C)C(=O)OC","N#[N+]C"],"products_smiles": ["C(=O)(OC)C(=N[NH]C)C(C)(C)C"],"conditions": "[OH-]","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]C(=C(C(=O)OC)C(C)(C)C)CCCC(C)C","rationale": "Strong base deprotonates the acidic α-proton between carbonyls due to resonance stabilization of the resulting enolate."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(=O)OC)(C(=O)CCCC(C)C)(N=NC)C(C)(C)C","rationale": "The nucleophilic enolate carbon attacks the electrophilic diazonium nitrogen, driven by the strong electrophilicity of the diazonium group."},{"step": 3,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(C(=O)OC)(C(O)([O-])(CCCC(C)C))(N=NC)C(C)(C)C","rationale": "Electrophilic addition of hydroxide to the carbonyl occurs due to increased electrophilicity from adjacent electron-withdrawing groups."},{"step": 4,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "C(=O)(OC)C(=N[N-]C)C(C)(C)C","rationale": "Heterolytic cleavage occurs as the leaving group departs, stabilized by resonance in the resulting imine-like intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(OC)C(=N[NH]C)C(C)(C)C","rationale": "Proton transfer under basic conditions neutralizes the anionic nitrogen, yielding the stable hydrazone product."}],"description": "Under basic conditions, the α-proton of the β-keto acid is deprotonated to form an enolate, which nucleophilically attacks the diazonium species. Subsequent rearrangements and cleavages yield the hydrazone product, stabilized by conjugation with the carbonyl group."}
